US07846929B2
2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine (35 mg) was reacted with 23 μL of propionyl chloride via General Procedure G to give N-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)propionamide.

reactant | 2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine | 35 mg | ClC=1N=C(C2=C(N1)C=C(S2)N)N2CCOCC2 | C10H11ClN4OS
reactant | propionyl chloride | 23 μL | C(CC)(=O)Cl | C3H5ClO
product | N-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)propionamide | ClC=1N=C(C2=C(N1)C=C(S2)NC(CC)=O)N2CCOCC2 | C13H15ClN4O2S
